Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
According to the Emergency Department and the patient's records 
from ___, the patient is a ___ man with a history of 
hypertension, diabetes mellitus, CKD stage II, who was informed 
to rpeort to the Emergency Department after his d-dimer was 
elevated to 4235. The patient has ssen providers in the ___ 
network since ___ for worsening dyspnea on exertion. 
After it did not improve, and an EKG demonstrated some 
non-specific change, the patient was sent for exercise stress 
testing. The stress testing also was not specific, but it was 
decided to obtain a d-dimer, which was elevated. presents with 
elevated D-dimer of 4235. Pt developed SOB with extertion last 
week. Per the Emergency Department, the patient has had a dry 
cough. He is not experiencing any chest pain, dyspnea at rest, 
nausea, vomiting, chills, fever or headache. His recent travel 
history includes ___ in ___ and driving to ___ (5 hrs 
in car) last weekend.  

In the ED, initial VS were pain 0, T 98.3, HR 80, BP 145/90, RR 
18 96% RA. The patient underwent CTA chest because of his 
elevated d-dimer. The wet read was suggestive of multiple PEs. 
As the patient was guaiac negative, he was started on a heparin 
drip and admitted to Medicine.  
 
On arrival to the floor, the patient confirms the narrative 
above. He says that around ___, he began to experience 
dyspnea with even the most minimal exertion. He says he was even 
short of breath in the shower. He has been immobile this month 
twice, once for a flight to ___ and once for a bus ride to 
___. He denied any chest pain but reports he 
occasionally became dizzy. He cannot remember having any pain or 
swelling in his legs. No one in his family has any history of 
blood clots.  
 
REVIEW OF SYSTEMS:  
(+) vomiting (after CT scan), dyspnea, dizziness  
(-) fever, chills, night sweats, headache, chest pain, abdominal 
pain, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria. 
 
Past Medical History:
Hypertension, essential  
PROSTATITIS - CHRONIC  
LEUKOPENIA  
Microalbuminuria  
DISC DISEASE - CERVICAL  
KIDNEY DISEASE - CHRONIC STAGE II  
Impaired fasting glucose  
Overweight  
Multinodular thyroid  
Urinary hesitancy  
DM2 (diabetes mellitus, type 2)  
Hyperlipidemia  
Positive PPD  
 
Social History:
___
Family History:
Family history of colon cancer: father in his ___. Brother with 
DM, ESRD, HTN.
 
Physical Exam:
ADMISSION EXAM:
VS - Temp 97.9F, BP 147/97, HR 79, R 20, O2-sat 97% RA  
GENERAL - well-appearing man in NAD, comfortable, appropriate  
HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, MMM, OP clear 
though with excoriations/bruising of bilateral soft palate  
NECK - supple, no carotid bruits  
LUNGS - CTA bilaterally, no r/rh/wh, good air movement, 
respirations unlabored, no accessory muscle use  
HEART - RRR, ___ soft systolic murmur at sternal border, nl 
S1-S2  
ABDOMEN - NABS, soft/NT/ND, no rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ radial/DP pulses  
NEURO - awake, A&Ox3, CNs III-XII grossly intact, muscle 
strength ___ throughout, sensation grossly intact throughout  

VS - Temp 98.8F, BP 106/74, HR 71, R 18, O2-sat 94% RA  
GENERAL - well-appearing man in NAD, comfortable, appropriate  
HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, MMM, OP clear   
NECK - supple, no carotid bruits  
LUNGS - CTA bilaterally, no r/rh/wh, good air movement, 
respirations unlabored, no accessory muscle use  
HEART - RRR, nl S1-S2, no m/r/g
ABDOMEN - NABS, soft/NT/ND, no rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ radial/DP pulses; negative 
___ sign, no calf tenderness 
NEURO - awake, A&Ox3, CNs III-XII grossly intact, muscle 
strength ___ throughout, sensation grossly intact throughout 
 
Pertinent Results:
ADMISSION LABS:
___ 08:34PM   WBC-5.9 RBC-4.76 HGB-14.9 HCT-44.4 MCV-93 
MCH-31.3 MCHC-33.5 RDW-13.7
___ 08:34PM   NEUTS-58.6 ___ MONOS-4.0 EOS-1.8 
BASOS-0.5
___ 08:34PM   PLT COUNT-239
___ 08:34PM   ___ PTT-29.4 ___
___ 08:34PM   GLUCOSE-174* UREA N-15 CREAT-1.3* SODIUM-138 
POTASSIUM-3.6 CHLORIDE-101 TOTAL CO2-24 ANION GAP-17
___ 08:34PM   cTropnT-0.01
___ 04:28AM   proBNP-578*

STUDIES:
___ ECG: Sinus at 96 bpm. S1, Q3, T3. TWF II, AVF. Normal axis 
and intervals.

___ CTA Chest: There are pulmonary emboli involving segmental 
and subsegmental branches involving all segments bilaterally.  
Pulmonary emboli are seen extending into the left and right 
pulmonary arteries.  The main pulmonary artery is enlarged 
measuring 3.6 cm (2:52).  The heart is mildly enlarged with 
small pericardial effusion.  The great vessels are unremarkable. 
 There is no hilar or mediastinal lymphadenopathy.  
Intrathoracic aorta is normal in caliber without evidence of 
dissection.  There is no focal consolidation, pleural effusion, 
or pneumothorax.  No suspicious pulmonary mass is identified.  
Centrilobular nodular opacities are noted in bilateral lung 
bases.  Several areas of centrilobular nodules are also seen in 
the right upper lobe, some of which 
appear in a ___ distribution, which is likely infectious 
or 
inflammatory.  Bibasilar areas of dependent atelectasis are 
noted.  There is no pleural effusion.  No pneumothorax.  The 
tracheobronchial tree is patent to subsegmental levels. 
  
There is a 10-mm hypodense thyroid nodule involving the left 
thyroid lobe 
(2:14).  This study is not tailored for subdiaphragmatic 
evaluation; however, partially imaged upper abdominal visceral 
organs are unremarkable. 
  
OSSEOUS STRUCTURES:  No suspicious lytic or sclerotic lesion is 
seen. 
  
IMPRESSION:   
1.  Numerous bilateral segmental and subsegmental pulmonary 
emboli involving all segments and extending into right and left 
pulmonary arteries.  The main pulmonary artery is enlarged, 
which is suggestive of pulmonary hypertension.  No peripheral 
opacities are noted to suggest pulmonary infarction at this 
time. 
  
2.  Centrilobular nodular opacities in the lung bases, some of 
which are in a ___ distribution in the right upper lobe, 
likely infectious or inflammatory in nature.  No suspicious 
pulmonary mass. 
  
3.  A 10-mm left thyroid lobe hypodense nodule, which can be 
further assessed with ultrasound on a non-emergent basis, as 
clinically indicated. 

___ LENIS: There is normal compressibility, flow, and spectral 
Doppler waveforms with augmentation of the bilateral common 
femoral, superficial femoral, and popliteal veins.  There is 
normal color flow and compressibility of the posterior tibial 
and peroneal calf veins.  Respiratory variation of the common 
femoral veins is symmetric bilaterally. 
  
IMPRESSION: No evidence of DVT in the right or left lower 
extremity. 

DISCHARGE LABS:

 
Brief Hospital Course:
___ man with a history of diabetes, hypertension, 
chronic kidney injury who reported to the Emergency Department 
after elevated d-dimer found after exercise stress test, found 
to have multiple PEs.  
 
#) Pulmonary embolism, submassive: The patient's CTA confirms 
bilateral segmental and subsegmental pulmonary emboli. The 
patient has been hemodynamically stable and has no new oxygen 
requirement. BNP is slightly elevated at 578, troponin negative 
suggestive of a good prognosis. This represents the patient's 
first appearance of clot, and there is no known family history 
of hypercoagulability. The patient has had age appropriate 
malignancy screening w/ negative colonoscopy a few years ago and 
a normal PSA this year. He was started on a heparin gtt and then 
transitioned to lovenox. LENIs were ordered to determine his 
clot burden and were negative. An ambulatory sat was checked and 
patient maintained sats between 92 and 96%. He was discharged 
home with lovenox, cautioned about the side effects/dangers of 
blood thinners. He should continue anti-coagulation w/ lovenox 
for ___ months and a hypercoagulability work up can be 
considered in the outpatient setting though this is his first 
such event.  

#) Diabetes mellitus, type 2: Well controlled with recent A1c of 
6.4. In setting of recent CTA with contrast, patient's metformin 
was held. His fingersticks were checked and he was managed w/ 
sliding scale humalog. His home aspirin was continued.

#) Hypertension: Patient was started on metoprolol one day prior 
to admission when his dyspnea was thought to be more cardiac in 
nature. This was stopped in house and he was continued on his 
home losartan, felodipine, and hydrochlorothiazide with good 
blood pressure control.  

#) Chronic prostatitis/urinary hesitancy: Continued home 
tamsulosin.  

#) Chronic kidney injury: Patient's creatinine was at his 
baseline of 1.2-1.3 (eGFR 60). He did receive contrast load with 
CTA and his creatinine was trended. He was started on lovenox as 
his kidney function is relatively intact and the patient 
preferred this to coumadin.

TRANSITIONAL ISSUES:
- ___ months of anticoagulation
- consider hypercoagulability w/u as outpatient
- f/u incidental CT finding of thyroid nodule w/ ultrasound if 
indicated (10-mm left thyroid lobe hypodense nodule)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY Start: In am 
Hold for HR<60, SBP< 100. 
2. losartan-hydrochlorothiazide *NF* 100-25 mg Oral DAILY 
3. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY Start: In am 
Do Not Crush 
4. Felodipine 10 mg PO DAILY Start: In am 
Hold for SBP < 100. 
5. Tamsulosin 0.4 mg PO HS Start: In am 
6. Multivitamins 1 TAB PO DAILY Start: In am 
7. Aspirin 81 mg PO DAILY Start: In am 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Pulmonary embolism

Secondary:
Hypertension
Diabetes mellitus
Chronic kidney disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because of blood clots found 
in your lungs. We believe these clots were responsible for the 
shortness of breath you have been experiencing recently. You 
were started on a blood thinner and monitored in the hospital. 
You are being discharged on enoxaparin to help thin your blood 
and treat your clots. If you notice bleeding, neurologic changes 
(sudden weakness, numbness or tingling in any body part, vision 
changes), please call your doctor or 911 right away as this may 
be related to the enoxaparin.

We found a small nodule of your thyroid on the CT scan. This 
should be followed up with an ultrasound at some point in the 
next several weeks. Please discuss this with your primary care 
doctor.

Please make the following changes to your medications:
- START ENOXAPARIN twice daily; you will continue this for ___ 
months
- STOP METOPROLOL

It was a pleasure taking care of you. We wish you a speedy 
recovery.
 
Followup Instructions:
___